US05473080
7. N-Allyl-N-[3-(3,5-dichlorophenyl)allyl]amine
4.5 ml (60 mmol, 3.4 g) of allylamine and 17.0 g of sodium sulfate were added to 12.0 g (59.7 mmol) of 3,5-dichlorocinnamaldehyde in 180 ml of methylene chloride, and the mixture was stirred at room temperature for 24 h. The sodium sulfate was then filtered and washed with methylene chloride, and the filtrate was evaporated to dryness. The resulting yellow oil was dissolved in 200 ml of absolute methanol and, under nitrogen, 2.5 g (66.0 mmol) of sodium borohydride were added in portions. The temperature of the mixture rose slightly and it was then stirred for 1 h and subsequently neutralized (pH=7) with 10% strength hydrochloric acid. The solvent was removed under reduced pressure, and the residue was taken up in methylene chloride. The organic phase was washed twice with water, dried over sodium sulfate and concentrated. The residue was purified by column chromatography (silica gel, methylene chloride +5% methanol). Yield: 9.2 g (63%) of yellow oil.

reactant | allylamine | 60 mmol, 4.5 ml, 3.4 g | C(C=C)N | C3H7N
reactant | sodium sulfate | 17.0 g | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | 3,5-dichlorocinnamaldehyde | 59.7 mmol, 12.0 g | ClC=1C=C(C=CC=O)C=C(C1)Cl | C9H6Cl2O
reactant | sodium borohydride | 66.0 mmol, 2.5 g | [BH4-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | methylene chloride | 180 ml | C(Cl)Cl | CH2Cl2
product | N-Allyl-N-[3-(3,5-dichlorophenyl)allyl]amine | C(C=C)NCC=CC1=CC(=CC(=C1)Cl)Cl | C12H13Cl2N
